US03939268
A suspension of 15 gm (0.075 mol) of 2,4-dichloropyrido[3,2-d]pyrimidine in 100 ml of acetone at -40°C was admixed with a solution of 3.2 gm (0.08 mol) of sodium hydroxide and 4.9 gm (5.8 ml) of ethylmercaptan in 25 ml of water, and the mixture was stirred for two hours at room temperature. Thereafter, 200 ml of water were added to the reaction mixture, and the precipitate formed thereby was collected and recrystallized from petroleum ether, yielding 11.0 gm (65% of theory) of 2-chloro-4-ethylmercapto-pyrido[3,2-d]pyrimidine, m.p. 101°-103°C.

reactant | 2,4-dichloropyrido[3,2-d]pyrimidine | 0.075 mol, 15 gm | ClC=1N=C(C2=C(N1)C=CC=N2)Cl | C7H3Cl2N3
reactant | sodium hydroxide | 0.08 mol, 3.2 gm | [OH-].[Na+]
reactant | ethylmercaptan | 5.8 ml, 4.9 gm | C(C)S | C2H6S
solvent | acetone | 100 ml | CC(=O)C | C3H6O
solvent | water | 25 ml | O | H2O
solvent | water | 200 ml | O | H2O
product | 2-chloro-4-ethylmercapto-pyrido[3,2-d]pyrimidine | 11.0 gm, 65% | ClC=1N=C(C2=C(N1)C=CC=N2)SCC | C9H8ClN3S
